US05053414
Synthesis of 3-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-3-oxo-2,2-difluoropropionic acid ethyl ester
A solution of (3RS)-3-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-3-hydroxy-2,2-difluoropropionic acid ethyl ester (250 mg) in methylene chloride (1.5 ml) was added dropwise to a suspension of Dess-Martin reagent (448 mg) in methylene chloride (6 ml). The mixture was stirred for 3 hrs. The reaction mixture was diluted with ether. A saturated aq. solution of sodium bicarbonate (30 ml) wherein sodium thiosulfate (2.26 g) was dissolved was added to the diluted solution. The mixture was stirred for 10 mins, and extracted with EtOAc. The extract was washed, dried and evaporated. The residue was purified by column chromatography on silica gel (hexane-EtoAc) to give the title compound (238 mg) having the following physical data:

reactant | (3RS)-3-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-3-hydroxy-2,2-difluoropropionic acid ethyl ester | 250 mg | C(C)OC(C(C(O)[C@H]1N(CCC1)C(CCC(N(C)CC1=CC=CC=C1)=O)=O)(F)F)=O | C21H28F2N2O5
reactant | Dess-Martin reagent | 448 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | 2.26 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 3-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-3-oxo-2,2-difluoropropionic acid ethyl ester | 238 mg | C(C)OC(C(C(=O)[C@H]1N(CCC1)C(CCC(N(C)CC1=CC=CC=C1)=O)=O)(F)F)=O | C21H26F2N2O5
